US07939533B2
d) N-[4-Acetylamino-4′-(4-fluoro-2-methyl-phenyl)-3,4,5,6-tetrahydro-2H-[1,2′]bipyridinyl-5′-yl]-2-(3,5-bis-trifluoromethyl-phenyl)-N-methyl-isobutyramide
To a solution of 80 mg (0.13 mmol) N-[4-amino-4′-(4-fluoro-2-methyl-phenyl)-3,4,5,6-tetrahydro-2H-[1,2′]bipyridinyl-5′-yl]-2-(3,5-bis-trifluoromethyl-phenyl)-N-methyl-isobutyramide and 26 mg (0.20 mmol) N,N-diisopropylethylamine in 3 ml dichloromethane were added 12 mg (0.15 mmol) acetyl chloride at 0° C. The reaction mixture was stirred at room temperature for 18 h. The mixture was diluted with 10 ml dichloromethane and washed with 10 ml of a saturated aqueous solution of sodium carbonate. The combined organic layers were dried over sodium sulfate, concentrated and purified by flash chromatography to give 82 mg (95%) of the title compound as a white foam.

reactant | N-[4-amino-4′-(4-fluoro-2-methyl-phenyl)-3,4,5,6-tetrahydro-2H-[1,2′]bipyridinyl-5′-yl]-2-(3,5-bis-trifluoromethyl-phenyl)-N-methyl-isobutyramide | 0.13 mmol, 80 mg | NC1CCN(CC1)C1=NC=C(C(=C1)C1=C(C=C(C=C1)F)C)N(C(C(C)(C)C1=CC(=CC(=C1)C(F)(F)F)C(F)(F)F)=O)C | C30H31F7N4O
reactant | N,N-diisopropylethylamine | 0.20 mmol, 26 mg | C(C)(C)N(C(C)C)CC | C8H19N
reactant | acetyl chloride | 0.15 mmol, 12 mg | C(C)(=O)Cl | C2H3ClO
solvent | dichloromethane | 3 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
product | N-[4-Acetylamino-4′-(4-fluoro-2-methyl-phenyl)-3,4,5,6-tetrahydro-2H-[1,2′]bipyridinyl-5′-yl]-2-(3,5-bis-trifluoromethyl-phenyl)-N-methyl-isobutyramide | 82 mg, 95% | C(C)(=O)NC1CCN(CC1)C1=NC=C(C(=C1)C1=C(C=C(C=C1)F)C)N(C(C(C)(C)C1=CC(=CC(=C1)C(F)(F)F)C(F)(F)F)=O)C | C32H33F7N4O2
